US06072067
A double-walled reactor having a volume of 1 L, provided with baffles, condenser, top stirrer, thermometer and dropping funnel, was charged with 600 g of clear 50% strength NaOH (7.5 mol), followed by cooling to 8° C. Then 20 g of Aliquat 336 (49 mmol) and 33 g (0.5 mol) of freshly cracked cyclopentadiene were added. The reaction mixture was stirred vigorously for a few minutes, then 172 g of cyclohexyl bromide (1.05 mol) were added. The reaction mixture was then cooled with circulating water at 10° C. After two hours of stirring at room temperature, the reaction mixture was heated to 70° C., followed by a further 6 hours of stirring. GC was used to show that 79% of the mixture of mono-, di- and tri-(cyclohexyl)cyclopentadiene was disubstituted cyclopentadiene. The product was distilled at 0.04 mbar and 110-120° C. After distillation, 73.6 g of di(cyclohexyl)cyclopentadiene were obtained, which was characterized with GC, GC-MS, 13C- and 1H-NMR.

reactant | NaOH | 7.5 mol | [OH-].[Na+]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | cyclohexyl bromide | 1.05 mol, 172 g | C1(CCCCC1)Br | C6H11Br
catalyst | Aliquat 336 | 49 mmol, 20 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | di(cyclohexyl)cyclopentadiene | 73.6 g | C1(CCCCC1)C1(C=CC=C1)C1CCCCC1 | C17H26
